US05578620
3-(2-phenylethoxy)-2-hydroxypropylazide
A procedure similar to that described in Preparation 12 was repeated, except that 4.50 g of 2-phenylethoxymethyloxirane (prepared as described in Preparation 55), 8.20 g of sodium azide, 45 ml of methyl formate and 180 ml of an 8:1 by volume mixture of methanol and water were used, to give 5.49 g of the title compound as a colorless oil having an Rf value of 0.70 (on silica gel thin layer chromatography, using a 2:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | 2-phenylethoxymethyloxirane | 4.50 g | C1(=CC=CC=C1)CCOCC1OC1 | C11H14O2
reactant | sodium azide | 8.20 g | [N-]=[N+]=[N-].[Na+]
reactant | methyl formate | 45 ml | C(=O)OC | C2H4O2
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-(2-phenylethoxy)-2-hydroxypropylazide | 5.49 g | C1(=CC=CC=C1)CCOCC(CN=[N+]=[N-])O | C11H15N3O2
